US05594010
(S)-N-(6-Bromopyridin-3-ylmethyl)-N-(1-methoxycarbonylbut-1-yl)amine
1.48 g (13.2 mmol) of potassium tert-butylate are added to a solution of 2.18 g (12 mmol) of methyl (S)-2-aminohexanoate hydrochloride and 1.66 ml of triethylamine in 20 ml of DME and 15 ml of DMF under argon. After stirring at 20° C. for 1 h, a solution of 3.01 g (12 mmol) of 2-bromo-5-bromomethylpyridine in 15 ml of DMF is injected and the mixture is stirred for 16 h. Subsequently, the solvent is distilled off in vacuo and the residue is taken up in dichloromethane/water; the organic phase is then dried over sodium sulphate and, after concentrating, purified on silica gel using petroleum ether/ethyl acetate (4:1).

reactant | potassium tert-butylate | 13.2 mmol, 1.48 g | CC(C)(C)[O-].[K+]
reactant | methyl (S)-2-aminohexanoate hydrochloride | 12 mmol, 2.18 g | Cl.N[C@H](C(=O)OC)CCCC
reactant | triethylamine | 1.66 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-5-bromomethylpyridine | 12 mmol, 3.01 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (S)-N-(6-Bromopyridin-3-ylmethyl)-N-(1-methoxycarbonylbut-1-yl)amine | BrC1=CC=C(C=N1)CN[C@@H](CCC)C(=O)OC | C12H17BrN2O2
